US06534522B2
A) 4-(4-(4-Fluorobenzyl)piperidin-1-yl)-2-butanone
To a solution of 4-(4-fluorobenzyl)piperidine (0.50 g, 2.2 mmol) in isopropanol (5 mL) was added methylvinyl ketone (0.25 mL, 3.0 mmol). The resulting solution was stirred at reflux for 1 h then concentrated under reduced pressure to afford the title compound as a pale yellow oil (0.58 g, 99%): 1H NMR (CDCl3) δ1.15-1.35 (m, 2H), 1.38-1.56 (m, 1H), 1.603 (bd, J=12.6 Hz, 2H), 1.894 (t, J=11.7 Hz, 2H), 2.155 (s, 2H), 2.486 (d, J=6.9 Hz, 2H), 2.615 (s, 3H), 2.8-2.9 (m, 2H), 6.9-7.0 (m, 2H), 7.0-7.1 (m, 2H); IR (film) 2928, 1720, 1514, 1219 cm−1.

reactant | 4-(4-fluorobenzyl)piperidine | 2.2 mmol, 0.50 g | FC1=CC=C(CC2CCNCC2)C=C1 | C12H16FN
reactant | methylvinyl ketone | 3.0 mmol, 0.25 mL | CC(=O)C=C | C4H6O
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 4-(4-(4-Fluorobenzyl)piperidin-1-yl)-2-butanone | 0.58 g, 99% | FC1=CC=C(CC2CCN(CC2)CCC(C)=O)C=C1 | C16H22FNO
